### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Maximal): `ne_top_iff_exists_maximal`

### PR DESCRIPTION
**Pull request by fbarroero**
We add `Ideal.ne_top_iff_exists_maximal` and an analogous statement for `IsDedekindDomain.HeightOneSpectrum`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 1]
```diff
@@ -993,6 +993,17 @@ def equivMaximalSpectrum (hR : ¬IsField R) : HeightOneSpectrum R ≃ MaximalSpe
   left_inv := fun ⟨_, _, _⟩ => rfl
   right_inv := fun ⟨_, _⟩ => rfl
 
+/-- An ideal of `R` is not the whole ring if and only if it is contained in an element of
+`HeightOneSpectrum R` -/
+theorem Ideal.ne_top_iff_exists (hR : ¬IsField R) (I : Ideal R) : I ≠ ⊤ ↔
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean]: Does that make the name `IsDedekindDomain.HeightOneSpectrum.Ideal.ne_top_iff_exists`? Was that intended?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 2]
```diff
@@ -993,6 +993,17 @@ def equivMaximalSpectrum (hR : ¬IsField R) : HeightOneSpectrum R ≃ MaximalSpe
...
+    ∃ P : HeightOneSpectrum R, I ≤ P.asIdeal := by
+  rw [Ideal.ne_top_iff_exists_maximal]
+  constructor
+  · rintro ⟨M, hMmax, hIM⟩
+    exact ⟨(equivMaximalSpectrum hR).invFun <| ⟨M, hMmax⟩, hIM⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean]:
```suggestion
    exact ⟨(equivMaximalSpectrum hR).invFun ⟨M, hMmax⟩, hIM⟩
```
... though I don't think you should use `invFun` directly

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 1 above)
Comment (fbarroero) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean]: Thanks, now the name should be better.

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 2 above)
Comment (fbarroero) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean]: I changed it to `(equivMaximalSpectrum hR).symm`

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
